US04840971
Synthesis of 2-(4-fluorophenyl)-3,3,3-trifluoropropyl 3phenylbenzyl ether (compound (5))
Under a nitrogen atmosphere, 0.50 g of 2-(4-fluorophenyl)-3,3,3-trifluoropropanol and 0.63 g of 3-phenoxybenzyl bromide was dissolved in 15 ml of dry diethyleneglycol dimethylether. Into the solution, 1.83 g of dry cesium fluoride was added at room temperature, and the reaction solution was stirred at room temperature for 48 hours. Thereafter, the reaction solution was poured into dilute HCl-ice water and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to preparative thin-layer chromatography on silica gel to obtain αmg of the desired compound.

reactant | 2-(4-fluorophenyl)-3,3,3-trifluoropropanol | 0.50 g | FC1=CC=C(C=C1)C(CO)C(F)(F)F | C9H8F4O
reactant | 3-phenoxybenzyl bromide | 0.63 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | cesium fluoride | 1.83 g | [F-].[Cs+]
solvent | diethyleneglycol dimethylether | 15 ml | COCCOCCOC | C6H14O3
product | 2-(4-fluorophenyl)-3,3,3-trifluoropropyl 3phenylbenzyl ether | C1(=CC=CC=C1)C=1C=C(COCC(C(F)(F)F)C2=CC=C(C=C2)F)C=CC1 | C22H18F4O
